US06476077B1
A solution of N-[(S)-2-(3,4-Dichlorophenyl)-4-hydroxybutyl]-N-methylamine (Miller, S C; WO 9512577) in DCM was combined with 10% aqueous sodium bicarbonate solution. The mixture was cooled to 0° C. and a solution of 3-cyano-2-methoxy-1-naphthoyl chloride in DCM was added dropwise over 30 min. After stirring overnight at room temperature, the organic phase was concentrated and purified by column chromatography to afford N-[2-(S)-(3,4-dichlorophenyl)-4-hydroxybutyl]-N-methyl-3cyano-2methoxy-1-naphthamide. 1H NMR (300 MHz, DMSO-d6) δ9.70-9.64 (m), 8.67-8.57 (m), 8.07-7.97 (m), 7.80 (s), 7.72-7.55 (m), 7.52-7.48 (m), 7.40-7.33 (m), 7.12-7.10 (d), 7.04-7.02 (d), 6.87-6.83 (m), 6.37-6.29 (d), 4.53-4.44 (t), 4.11-4.00 (m), 3.94 (s), 3.92 (s), 3.91-3.73 (m), 3.71 (s), 3.45-3.38 (m), 3.33 (s), 3.14 (s), 2.97-2.95 (d), 2.63 (s), 2.60 (s); MS APCI, m/z=455(M+). This compound was characterized as a mixture of atropoisomers.

reactant | N-[(S)-2-(3,4-Dichlorophenyl)-4-hydroxybutyl]-N-methylamine | ClC=1C=C(C=CC1Cl)[C@@H](CNC)CCO | C11H15Cl2NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-cyano-2-methoxy-1-naphthoyl chloride | C(#N)C=1C(=C(C2=CC=CC=C2C1)C(=O)Cl)OC | C13H8ClNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[2-(S)-(3,4-dichlorophenyl)-4-hydroxybutyl]-N-methyl-3cyano-2methoxy-1-naphthamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=C(C(=CC2=CC=CC=C12)C#N)OC)C)CCO | C24H22Cl2N2O3
